US05342844
5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid
Starting from 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.97 g, 2.9 mmol) and 2-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (1.12 g, 91%) as a bright yellow solid, mp 206°-208°C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.9 mmol, 0.97 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 2-(3-pyrrolidinyl)pyridine | N1CC(CC1)C1=NC=CC=C1 | C9H12N2
product | 5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 1.12 g, 91% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)C1=NC=CC=C1)F)C1CC1)C(=O)O)=O | C22H20F2N4O3
